Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
"My life is diminishing."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
In short, ___ year old man with no prior psychiatric treatment 
history who presented from his PCPs office due to depression 
with suicidal thoughts.
.
In interview, Mr. ___ confirmed story documented in the 
initial evaluation.
.
He reported about ongoing and worsening depression x last year. 
he described decreased mood, poor sleep (he didn't sleep at last 
couple nights), feeling worthless, feeling easily overwhelmed, 
feeling hopeless, increased anxiety and episodes suggestive for 
panic attacks. He also described increased tearfulness. He 
noticed no appetite and eating just "because I have to". He also 
reported decreased level of energy, decreased motivation. 
Decreased sense of enjoyment (e.g., playing music). He also 
admits being more irritable. He had domestic altercation with 
his wife and ended up in jail on ___. he didn't describe 
the details. He also shared that he was crying in front of the 
children in School (he works as paraprofessional). In fact, he 
is not sure if he is able to return to his job. He is afraid 
that he might be fired.
.
On further review of psychiatric sx's, he formally denied sx's 
of psychosis. In fact, he became upset about that. He admitted 
to feel low self esteem and being "self conscious". He admits 
that he thought about suicide but didn't have any specific plan. 
He said: "But I can understand people who decide to kill 
themselves". He denied any hx of receiving psychiatric 
treatment. Denied any acute or ongoing medical issues. Re. 
substances, he has been regularly smoking MJ.

 
Past Medical History:
He denied any hx of receiving psychiatric treatment. Denied any 
acute or ongoing medical issues.
 
Social History:
___
Family History:
Father with EtOH use, mother 'bipolar schizophrenia'. 

 
Physical Exam:
EXAM: T 97.3 HR 64 BP 126/80 RR 17 O2sat 97% on RA 
.
GENERAL: ___ yo alert, well developed, athletically built man, no 
facial asymmetry, freely moves his extremeties, no involuntary 
movements, unremarkable steady gait.
.
MSE: ___ yo AA man, well groomed, casually dressed, with multiple 
braids on his hair, beard, visible tattoos (e.g., two large 
tattoos on both forearms). Withdrawn,but cooperative with 
interview, poor eye contact. Speech spontaneous, fluent, in 
normal rate, decreased prosody. Clear voice. TP: linear, no 
gross disorganized thinking. However, pt is quite prone to steer 
conversation into negative tone. E.g., when writer remarked that 
pt is a strong person, pt started to talk that he should 
exercise less to "be less intimidating to people". He formally 
denied sx's of psychosis including overt paranoia, A/V/H. 
However, he talked about difficulties to trust. He also talked 
about experiences suggestive for derealization (e.g., when 
driving a car, he felt that everything is moving so slowly). He 
felt afraid and anxious from that experience. Pt talked about 
low self esteem, worthlessness. He admits to feel depressed, 
anxious. He also agreed that he is more irritable lately. His 
affect was sad, dysphoric, with frequent episodes of 
tearfulness. However, he also had irritable edge. He formally 
denied S/H/I at the time of the interview. However, he confirmed 
that he had S/I without any specific plan. He admitted to be 
quite hopeless. Per OMR, there was concern that pt actually had 
more active suicidal thoughts. His insight is grossly intact: he 
recognized problem with his mood. His judgment is negatively 
affected by his mood.
 
Pertinent Results:
___:14PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:14PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:19PM   GLUCOSE-87 UREA N-14 CREAT-1.1 SODIUM-142 
POTASSIUM-4.8 CHLORIDE-106 TOTAL CO2-25 ANION GAP-11
___ 12:19PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:19PM   WBC-7.7 RBC-4.15* HGB-12.6* HCT-36.8* MCV-89 
MCH-30.4 MCHC-34.2 RDW-14.4 RDWSD-46.3
___ 12:19PM   NEUTS-47.8 ___ MONOS-8.0 EOS-6.7 
BASOS-0.1 IM ___ AbsNeut-3.69 AbsLymp-2.86 AbsMono-0.62 
AbsEos-0.52 AbsBaso-0.01
___ 12:19PM   PLT COUNT-336
___ 12:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were placed on 15 minute 
checks status (least restrictive level of monitoring) on 
admission and remained on that level of observation throughout 
while being unit restricted due to pre-admission complaints of 
SI.
.
2. PSYCHIATRIC:
# MDD
Patient was admitted complaining of ___ years' worsening 
depressive symptoms including low mood and affective 
instability, anhedonia, poor sleep, poor appetite, impaired 
motivation, lack of concentration, and suicidal ideation without 
plan.  He was started on zoloft titrated to 50 mg PO daily as 
well as oxcarbazepine titrated to 300 mg PO BID for irritability 
and anger.  He was initially prescribed low-dose seroquel for 
sleep and anxiety but better tolerated hydroxyzine 50 mg PO 
daily PRN.  He participated in both group and individual 
therapies and consistently demonstrated goal- and 
future-oriented view denying SI, endorsing desire to continue 
outpatient treatment, repair his relationships, and resume work. 
 A family meeting was held prior to discharge in which his wife 
and his mother-in-law endorsed their support of the patient in 
his recovery.
.
3. SUBSTANCE USE DISORDERS:
# Cannabis use disorder
Patient counseled on the importance of marijuana use cessation 
given the substance's propensity to cause both mood and 
psychotic symptoms.
.
4. MEDICAL
No active medical issues.
.
5. PSYCHOSOCIAL
# GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient actively participated in these groups and was noted to 
be sociable with peers.  
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
A family meeting was held in which the patient's wife and 
mother-in-law verified his history of trauma and clarified the 
events which transpired that resulted in his presentation to the 
hospital.  They showed support for the patient in his recovery 
having been provided psychoeducation.
.
#) INTERVENTIONS
- Medications: zoloft 50 mg PO daily, oxcarbazepine 300 mg PO 
BID, hydroxyzine 50 mg PO daily PRN anxiety.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Referred to ___ 
___ psychiatry and therapy.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Supportive
-Guardianships: N/A
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting the above medications, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal ideation as well as irritability having resulted in a 
recent altercation with his spouse.  Their static factors noted 
at that time include history of abuse, history of substance 
abuse, and male gender; modifiable risk factors, including 
active substance use, depression with suicidal ideation without 
plan or intent, affective lability, and lack of outpatient 
treaters were also addressed through initiation of psychotropic 
medications, involvement of family and social supports in 
patient's hospitalization and aftercare planning, and 
coordination of referrals to psychiatric providers.   Finally, 
the patient is being discharged with many protective factors, 
including social supports, employment, housing, and goal- and 
future-oriented view.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.
.
Our Prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 50 mg PO QID PRN anxiety/insomnia 
RX *hydroxyzine HCl 50 mg Take 1 tab by mouth Daily as needed 
Disp #*7 Tablet Refills:*0 
2.  OXcarbazepine 300 mg PO BID 
RX *oxcarbazepine 150 mg Take 2 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
3.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg Take 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, severe
Cannabis use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

MSE:
Appearance: well groomed
Facial expression: brighter, friendly
build: WNL 
behavior: Engaging, cooperative, pleasant
eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: Normal rate, volume, tone 
mood/affect "I want to go home today", much improved, brighter
not as irritable, no angry outbursts 
thought process/content: Linear, goal-directed, denies SI/HI,
denies AH/VH, denies delusions
Intellectual Functioning: decreased concentration
Oriented: x3
Memory: grossly intact
Insight: fair 
judgment: fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___